US04645845
5.5 g of triphenylphosphine were dissolved in 100 ml of anhydrous methylene chloride, 3.4 g of bromine were added dropwise, the reaction mixture was stirred for 30 minutes at room temperature, 5 g of (S)-2,5,7,8-tetramethyl-6-hydroxy-2-(2-hydroxyethyl)-chroman were added, and the mixture was refluxed for one hour and then poured onto sodium carbonate solution. The aqueous phase was extracted with methylene chloride, the combined organic phases were washed with sodium chloride solution, dried and evaporated down, and the residue was recrystallized from methanol. 5.3 g of (S)-2,5,7,8-tetramethyl-6-hydroxy-2-(2-bromoethyl)-chroman were obtained. [α]D20 =-15 (c=2, MeOH), mp.=120° C.

reactant | triphenylphosphine | 5.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 3.4 g | BrBr | Br2
reactant | (S)-2,5,7,8-tetramethyl-6-hydroxy-2-(2-hydroxyethyl)-chroman | 5 g | C[C@@]1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)CCO | C15H22O3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (S)-2,5,7,8-tetramethyl-6-hydroxy-2-(2-bromoethyl)-chroman | 5.3 g | C[C@@]1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)CCBr | C15H21BrO2
